US05650406
5-methoxy-2-adamantyl acetic acid:
Aqueous 2.5 N sodium hydroxide solution 0.13 ml was added to methanol 2 ml solution of 5-methoxy-2-adamantyl acetic acid methyl ester 50.0 mg obtained in referential example 9 and stirred at room temperature for 7 hours. Reaction mixture was concentrated in vacuo. Saturated sodium bicarbonate solution was added to the residue and washed with ether. Aqueous layer was adjused to pH 1 by adding 12 N hydrochloric acid, and extracted with ethyl acetate, then dried by adding anhydrous sodium sulfate. After removal of the drying agent, the filtrate was concentrated in vacuo to obtain the product as a mixture of stereoisomer. (a mixture of stereoisomer 1:1 measured by gas chromatography)

reactant | sodium hydroxide | 2.5 N, 0.13 ml | [OH-].[Na+]
reactant | 5-methoxy-2-adamantyl acetic acid methyl ester | 50.0 mg | COC(CC1C2CC3CC(CC1C3)(C2)OC)=O | C14H22O3
solvent | methanol | 2 ml | CO | CH4O
product | 5-methoxy-2-adamantyl acetic acid | COC12CC3C(C(CC(C1)C3)C2)CC(=O)O | C13H20O3
